US07812047B2
(R)-5-Phenylsulfanylmethyl-4,5-dihydro-1H-imidazol-2-ylamine hydrobromide or tautomer
(2R)-3-(Phenylthio)-1,2-propanediamine (0.20 g, 1.1 mmol) was dissolved in toluene (3 ml) and a solution of cyanogen bromide (0.116 g, 1.1 mmol) in toluene (1 ml) was added dropwise at room temperature. The mixture is allowed to stir for 90 min. After evaporation of the solvent the residue was dissolved in ethanol (1.5 ml). By slowly adding ethyl acetate (8 ml) a light brown solid precipitated, 0.152 g (66%), MS (ISP): 207.9 (M+H)+).

reactant | (2R)-3-(Phenylthio)-1,2-propanediamine | 1.1 mmol, 0.20 g | C1(=CC=CC=C1)SC[C@@H](CN)N | C9H14N2S
reactant | cyanogen bromide | 1.1 mmol, 0.116 g | N#CBr | CBrN
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
product | (R)-5-Phenylsulfanylmethyl-4,5-dihydro-1H-imidazol-2-ylamine hydrobromide | Br.C1(=CC=CC=C1)SC[C@H]1CN=C(N1)N | InChI=1S/C10H13N3S.BrH/c11-10-12-6-8(13-10)7-14-9-4-2-1-3-5-9;/h1-5,8H,6-7H2,(H3,11,12,13);1H/t8-;/m1./s1
